US08835627B2
N-{2-[2-(chloromethyl)-4,5-dimethoxyphenyl]ethyl}-2,2,2-trifluoroacetamide
In a three-necked flask, mix N-[2-(3,4-dimethoxyphenyl)ethyl]-2,2,2-trifluoroacetamide (35 g, 126 mmoles) and 37% aqueous formaldehyde (776 mL, 1.014 mole) in 120 mL of dichloromethane at 0° C. To the resulting two-phase mixture slowly add, at 0° C., 345 mL of 37% aqueous hydrochloric acid solution and heat at 40° C. After being in contact for 3 hours, hydrolyse the mixture using 250 mL of water and wash the aqueous phase with dichloromethane (2×100 mL). Combine the organic phases, dry them over MgSO4 and carry out drying in vacuo to obtain a beige meringue (38.2 g). The product obtained is recrystallised from toluene to obtain 31.5 g of a white powder corresponding to the title compound.

reactant | N-[2-(3,4-dimethoxyphenyl)ethyl]-2,2,2-trifluoroacetamide | 126 mmoles, 35 g | COC=1C=C(C=CC1OC)CCNC(C(F)(F)F)=O | C12H14F3NO3
reactant | formaldehyde | 1.014 mole, 776 mL | C=O | CH2O
reactant | hydrochloric acid | 345 mL | Cl | ClH
reactant | water | 250 mL | O | H2O
reactant | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | N-{2-[2-(chloromethyl)-4,5-dimethoxyphenyl]ethyl}-2,2,2-trifluoroacetamide | 31.5 g, Yield: 77% | ClCC1=C(C=C(C(=C1)OC)OC)CCNC(C(F)(F)F)=O | C13H15ClF3NO3
